US05112822
A solution of 1,2-dihydro-2,2-dimethyl-6-nitro-3 (4H)-quinoxalinone(663 mg, 3 mmol) in CH3OH (10 ml) is hydrogenated with 50 psi H2 (g) at room temperature in the presence of a catalyst of 10% by weight palladium on charcoal (50 mg). After the starting material is consumed, the solution is filtered and concentrated in vacuo to yield 6-amino-1,2- dihydro-2,2-dimethyl-3-(4H)-quinoxalinone.

reactant | 1,2-dihydro-2,2-dimethyl-6-nitro-3 (4H)-quinoxalinone | 3 mmol, 663 mg | CC1(NC2=CC=C(C=C2NC1=O)[N+](=O)[O-])C | C10H11N3O3
solvent | CH3OH | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 6-amino-1,2- dihydro-2,2-dimethyl-3-(4H)-quinoxalinone | NC=1C=C2NC(C(NC2=CC1)(C)C)=O | C10H13N3O
